US08097628B2
(b) 6-(Methyloxy)-2,3-pyridinediamine
6-(Methyloxy)-3-nitro-2-pyridinamine (26 g, 129 mmol) was suspended in EtOH (500 ml) at room temperature under argon and then treated with palladium on carbon (15 g, 14.10 mmol) (10% paste). The reaction was stirred under 1 atmosphere of hydrogen overnight. The reaction was filtered through a Celite pad and the pad washed with EtOH (500 ml). EtOH was evaporated to afford the product as a purple oil (20.68 g, slightly impure).

reactant | 6-(Methyloxy)-3-nitro-2-pyridinamine | 129 mmol, 26 g | COC1=CC=C(C(=N1)N)[N+](=O)[O-] | C6H7N3O3
reactant | hydrogen | [H][H] | H2
solvent | EtOH | 500 ml | CCO | C2H6O
catalyst | palladium on carbon | 14.10 mmol, 15 g | [Pd] | Pd
product | 6-(Methyloxy)-2,3-pyridinediamine | COC1=CC=C(C(=N1)N)N | C6H9N3O
